US09255094B2
To a stirred solution of (2-methoxyphenyl)hydrazine hydrochloride (5 g, 0.0286 mol) and 1-methyl-4-piperidone (2.83 mL, 0.0229 mol) in ethanol (50 mL) was added ethanolic hydrochloric acid (5 mL). The reaction mixture was heated at 80° C. for 2 h. After completion, the reaction mixture was cooled to RT and solvent removed under reduced pressure. The residue was basified with 10% sodium hydroxide solution and extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel column chromatography (6% MeOH:DCM) to yield 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.5 g, 24% yield).

reactant | (2-methoxyphenyl)hydrazine hydrochloride | 0.0286 mol, 5 g | Cl.COC1=C(C=CC=C1)NN
reactant | 1-methyl-4-piperidone | 0.0229 mol, 2.83 mL | CN1CCC(CC1)=O | C6H11NO
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-methoxy-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.5 g, 24% yield | COC1=CC=CC=2C3=C(NC12)CCN(C3)C | C13H16N2O
